US04957928
4.74 g (55 mmol) of acrylic acid methyl ester are added at room temperature to a solution of 5.13 g (25 mmol) of 3-(2-aminoethyl)-2,2-dimethylchroman in 50 ml of methanol. The mixture is stirred for 16 hours at room temperature and then concentrated by evaporation in vacuo, yielding 9.43 g (100% of the theorectical yield) of N-[2-(2,2-dimethylchroman-3-yl)-ethyl]-N,N-bis(2-methoxycarbonylethyl)-amine in the form of a light-yellow oil which is further used in that form.

reactant | acrylic acid methyl ester | 55 mmol, 4.74 g | COC(C=C)=O | C4H6O2
reactant | 3-(2-aminoethyl)-2,2-dimethylchroman | 25 mmol, 5.13 g | NCCC1C(OC2=CC=CC=C2C1)(C)C | C13H19NO
solvent | methanol | 50 ml | CO | CH4O
product | N-[2-(2,2-dimethylchroman-3-yl)-ethyl]-N,N-bis(2-methoxycarbonylethyl)-amine | CC1(OC2=CC=CC=C2CC1CCN(CCC(=O)OC)CCC(=O)OC)C | C21H31NO5
